US04751244
3-Chloro-4-formylbenzoic acid (5 g, 0.027 mole), butylamine (2 g, 0.027 mole) and benzene (75 ml) were refluxed for 2 hours using a flask fitted with a Dean-Stark water separator. The solvent was removed by distillation in vacuo to give 3-chloro-4-(butyliminomethylene) benzoic acid to which was added nitropropane (8.9 g, 0.1 mole) and acetic acid (21 ml). The mixture was refluxed for 10 minutes then cooled in ice. The mixture was treated with water and the solid that separated removed by filtration, washed with water, dried and recrystallized from a mixture of acetic acid and water (2:1) to give 4.7 g of the desired product, m.p. 179°-180° C.

reactant | 3-Chloro-4-formylbenzoic acid | 0.027 mole, 5 g | ClC=1C=C(C(=O)O)C=CC1C=O | C8H5ClO3
reactant | butylamine | 0.027 mole, 2 g | C(CCC)N | C4H11N
reactant | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-chloro-4-(butyliminomethylene) benzoic acid | ClC1C=C(C(=O)O)C=CC1=C=NCCCC | C12H14ClNO2
